US04362895
Synthesis of 2,4-Dihydroxy-4'-Methoxy Benzophenone
Aluminum chloride (48 gm, 0.36 moles) was added gradually, with stirring to a mixture of 31 grams (0.18 moles) of anisoyl chloride, 19.82 grams (0.18 moles) of resorcinol and 300 ml. of dry nitrobenzene during 60 minutes. Sixty hours later the reaction mixture was poured on 200 grams of ice and 100 ml. of concentrated hydrochloric acid. After removal of the nitrobenzene with steam the residual crystalline solid product was washed with water and collected. The cake was then washed with cold (-50 degrees C.) methanol to remove tarry impurities and dried.

reactant | Aluminum chloride | 0.36 moles, 48 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisoyl chloride | 0.18 moles, 31 grams | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | resorcinol | 0.18 moles, 19.82 grams | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | hydrochloric acid | Cl | ClH
product | 2,4-Dihydroxy-4'-Methoxy Benzophenone | OC1=C(C(=O)C2=CC=C(C=C2)OC)C=CC(=C1)O | C14H12O4
